** sch_path: /home/designer/shared/libs/IHP__DAC4133/DAC4133-main/schematic/xschem/DAC4133_non_overlap.sch
**.subckt DAC4133_non_overlap AVDD AVSS i_signb i_sign o_sign o_signb
*.iopin AVDD
*.iopin AVSS
*.iopin i_sign
*.iopin i_signb
*.iopin o_sign
*.iopin o_signb
x5 AVDD AVSS i_sign xb xa DAC4133_nand
x6 xa o_sign AVDD AVSS DAC4133_inv
x3 AVDD AVSS i_signb xa xb DAC4133_nand
x1 xb o_signb AVDD AVSS DAC4133_inv
**.ends

* expanding   symbol:  DAC4133_nand.sym # of pins=5
** sym_path: /home/designer/shared/libs/IHP__DAC4133/DAC4133-main/schematic/xschem/DAC4133_nand.sym
** sch_path: /home/designer/shared/libs/IHP__DAC4133/DAC4133-main/schematic/xschem/DAC4133_nand.sch
.subckt DAC4133_nand VDD VSS A B Y
*.opin Y
*.ipin A
*.iopin VDD
*.iopin VSS
*.ipin B
XMN0 net1 B VSS VSS sg13_lv_nmos w=1.44u l=130.00n ng=2 m=1 mm_ok=1
XMP0 Y B VDD VDD sg13_lv_pmos w=2.24u l=130.00n ng=2 m=1 mm_ok=1
XMN1 Y A net1 VSS sg13_lv_nmos w=1.44u l=130.00n ng=2 m=1 mm_ok=1
XMP1 Y A VDD VDD sg13_lv_pmos w=2.24u l=130.00n ng=2 m=1 mm_ok=1
.ends


* expanding   symbol:  DAC4133_inv.sym # of pins=4
** sym_path: /home/designer/shared/libs/IHP__DAC4133/DAC4133-main/schematic/xschem/DAC4133_inv.sym
** sch_path: /home/designer/shared/libs/IHP__DAC4133/DAC4133-main/schematic/xschem/DAC4133_inv.sch
.subckt DAC4133_inv A Y VDD VSS
*.opin Y
*.ipin A
*.iopin VDD
*.iopin VSS
XMN0 Y A VSS VSS sg13_lv_nmos w=740.00n l=130.00n ng=1 m=1 mm_ok=1
XMP0 Y A VDD VDD sg13_lv_pmos w=1.12u l=130.00n ng=1 m=1 mm_ok=1
.ends

.end
