** sch_path: /home/designer/shared/libs/IHP__DAC4133/DAC4133-main/schematic/xschem/DAC4133_output_ctrl_sw.sch
.subckt DAC4133_output_ctrl_sw AVDD CC_P i_en CC_N AVSS IREF i_sign IBIAS i_signb ISUM en_bb
*.PININFO AVDD:B AVSS:B i_en:B i_sign:B i_signb:B ISUM:B CC_P:B CC_N:B IREF:B IBIAS:B en_bb:B
x9 x_sign x_signb ISUM AVSS CC_P CC_N DAC4133_dsw
x1 i_en en_b AVDD AVSS DAC4133_inv
x2 en_b en_bb AVDD AVSS DAC4133_inv
x4 AVDD AVSS en_bb en_b IREF IBIAS DAC4133_tgate
x3 AVDD AVSS i_signb i_sign x_sign x_signb DAC4133_non_overlap
.ends

* expanding   symbol:  DAC4133_dsw.sym # of pins=6
** sym_path: /home/designer/shared/libs/IHP__DAC4133/DAC4133-main/schematic/xschem/DAC4133_dsw.sym
** sch_path: /home/designer/shared/libs/IHP__DAC4133/DAC4133-main/schematic/xschem/DAC4133_dsw.sch
.subckt DAC4133_dsw SIGN SIGNB IN AVSS VOP VOM
*.PININFO SIGN:B SIGNB:B IN:B AVSS:B VOP:B VOM:B
MM1 IN SIGN VOM AVSS sg13_lv_nmos w=3u l=0.13u ng=1 m=2
MM2 VOM SIGNB AVSS AVSS sg13_lv_nmos w=3u l=0.13u ng=1 m=2
MM3 IN SIGNB VOP AVSS sg13_lv_nmos w=3u l=0.13u ng=1 m=2
MM4 VOP SIGN AVSS AVSS sg13_lv_nmos w=3u l=0.13u ng=1 m=2
.ends


* expanding   symbol:  DAC4133_inv.sym # of pins=4
** sym_path: /home/designer/shared/libs/IHP__DAC4133/DAC4133-main/schematic/xschem/DAC4133_inv.sym
** sch_path: /home/designer/shared/libs/IHP__DAC4133/DAC4133-main/schematic/xschem/DAC4133_inv.sch
.subckt DAC4133_inv A Y VDD VSS
*.PININFO Y:O A:I VDD:B VSS:B
MMN0 Y A VSS VSS sg13_lv_nmos w=740.00n l=130.00n ng=1
MMP0 Y A VDD VDD sg13_lv_pmos w=1.12u l=130.00n ng=1
.ends


* expanding   symbol:  DAC4133_tgate.sym # of pins=6
** sym_path: /home/designer/shared/libs/IHP__DAC4133/DAC4133-main/schematic/xschem/DAC4133_tgate.sym
** sch_path: /home/designer/shared/libs/IHP__DAC4133/DAC4133-main/schematic/xschem/DAC4133_tgate.sch
.subckt DAC4133_tgate AVDD AVSS EN ENB A B
*.PININFO AVDD:B AVSS:B EN:B ENB:B A:B B:B
MM1 A EN B AVSS sg13_lv_nmos w=1u l=1u ng=1 m=2
MM2 B ENB A AVDD sg13_lv_pmos w=1u l=1u ng=1 m=2
.ends


* expanding   symbol:  DAC4133_non_overlap.sym # of pins=6
** sym_path: /home/designer/shared/libs/IHP__DAC4133/DAC4133-main/schematic/xschem/DAC4133_non_overlap.sym
** sch_path: /home/designer/shared/libs/IHP__DAC4133/DAC4133-main/schematic/xschem/DAC4133_non_overlap.sch
.subckt DAC4133_non_overlap AVDD AVSS i_signb i_sign o_sign o_signb
*.PININFO AVDD:B AVSS:B i_sign:B i_signb:B o_sign:B o_signb:B
x5 AVDD AVSS i_sign xb xa DAC4133_nand
x6 xa o_sign AVDD AVSS DAC4133_inv
x3 AVDD AVSS i_signb xa xb DAC4133_nand
x1 xb o_signb AVDD AVSS DAC4133_inv
.ends


* expanding   symbol:  DAC4133_nand.sym # of pins=5
** sym_path: /home/designer/shared/libs/IHP__DAC4133/DAC4133-main/schematic/xschem/DAC4133_nand.sym
** sch_path: /home/designer/shared/libs/IHP__DAC4133/DAC4133-main/schematic/xschem/DAC4133_nand.sch
.subckt DAC4133_nand VDD VSS A B Y
*.PININFO Y:O A:I VDD:B VSS:B B:I
MMN0 net1 B VSS VSS sg13_lv_nmos w=1.44u l=130.00n ng=2
MMP0 Y B VDD VDD sg13_lv_pmos w=2.24u l=130.00n ng=2
MMN1 Y A net1 VSS sg13_lv_nmos w=1.44u l=130.00n ng=2
MMP1 Y A VDD VDD sg13_lv_pmos w=2.24u l=130.00n ng=2
.ends

